US07678795B2
3-(1-Phenyl-5-trifluoromethyl-1H-pyrazol-4-yl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
light yellow solid. MS (EI): 372.3 (M+). Prepared from cyclooctane-1,2-dione, [2-oxo-2-(1-phenyl-5-trifluoromethyl-1H-pyrazol-4-yl)-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-oxo-2-(1-phenyl-5-trifluoromethyl-1H-pyrazol-4-yl)-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1)=O | C14H14F3N2O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(1-Phenyl-5-trifluoromethyl-1H-pyrazol-4-yl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C1=CC2=C(N=N1)CCCCCC2 | C20H19F3N4
